US08119655B2
Compound 80: 9-Bromo-5H-pyrazino[2,3-b]indole
1-Acetyl-4-bromo-1,2-dihydro-indol-3-one (460 mg, 1.81 mmol) was dissolved in CH2Cl2 (8 mL). Bromine (111 μL, 2.2 mmol) was added slowly, and the reaction stirred for 20 min and then was concentrated in vacuo. The residue was dissolved in THF (8 mL). Ethylenediamine (244 μL, 3.6 mmol) was added, and the reaction stirred for 16 h at r.t. Triethylamine (2 mL) and MeOH (4 mL) were added, and the reaction stirred while left open to air for 24 h. The solution was concentrated in vacuo and purified by silica gel chromatography (8% MeOH/CH2Cl2) to give 248 mg (55%) of the title compound as a red solid. MS (ES) [m+H] calc'd for C10H6BrN3, 248, 250; found 248, 250.

reactant | 1-Acetyl-4-bromo-1,2-dihydro-indol-3-one | 1.81 mmol, 460 mg | C(C)(=O)N1CC(C2=C(C=CC=C12)Br)=O | C10H8BrNO2
reactant | Bromine | 2.2 mmol, 111 μL | BrBr | Br2
reactant | Ethylenediamine | 3.6 mmol, 244 μL | C(CN)N | C2H8N2
reactant | Triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 4 mL | CO | CH4O
product | 9-Bromo-5H-pyrazino[2,3-b]indole | 248 mg, 55% | BrC=1C=2C3=C(NC2C=CC1)N=CC=N3 | C10H6BrN3
